US08003785B2
To a mixture of 0.08 g (0.17 mmole) of 4-(7,7-difluoro-5-methyl-6-oxo-9-phenethyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-275), 0.12 mL (0.64 mmole) of ethyldiisopropyl amine and 0.019 g (0.19 mmole) of N,N-dimethyl-propane-1,3-diamine in 2.0 mL of dimethylformamide was added 0.079 g (0.19 mmole) of 1-(di-1-pyrrolidinylmethylene)-1H-benzotriazolium 3-oxide hexafluorophosphate. The mixture was stirred at room temperature for 1 hour, then diluted with 10 mL of ice water. The mixture was extracted with dichloromethane 3 times. The combined organic layers were washed three times with sodium carbonate, three times with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 100:0-70:30) gave 0.045 g of 4-(7,7-difluoro-5-methyl-6-oxo-9-phenethyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(3-dimethylamino-propyl)-3-methoxy-benzamide (I-279) as a white solid.

reactant | 4-(7,7-difluoro-5-methyl-6-oxo-9-phenethyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.17 mmole, 0.08 g | FC1(C(N(C2=C(N(C1)CCC1=CC=CC=C1)N=C(N=C2)NC2=C(C=C(C(=O)O)C=C2)OC)C)=O)F | C24H23F2N5O4
reactant | ethyldiisopropyl amine | 0.64 mmole, 0.12 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N,N-dimethyl-propane-1,3-diamine | 0.19 mmole, 0.019 g | CN(CCCN)C | C5H14N2
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 4-(7,7-difluoro-5-methyl-6-oxo-9-phenethyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(3-dimethylamino-propyl)-3-methoxy-benzamide | 0.045 g | FC1(C(N(C2=C(N(C1)CCC1=CC=CC=C1)N=C(N=C2)NC2=C(C=C(C(=O)NCCCN(C)C)C=C2)OC)C)=O)F | C29H35F2N7O3
